US07868014B2
Add trifluoromethanesulfonic anhydride (383 μL, 2.3 mmol) dropwise to a suspension of isoquinolin-3-ol (274 mg, 1.89 mmol) and triethylamine (524 μL, 3.8 mmol) in dichloromethane (12 mL). Stir for 40 min, then load onto a silica column and elute with dichloromethane to give trifluoro-methanesulfonic acid isoquinolin-3-yl ester as a white solid (505 mg, 97%).

reactant | trifluoromethanesulfonic anhydride | 2.3 mmol, 383 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | isoquinolin-3-ol | 1.89 mmol, 274 mg | C1=NC(=CC2=CC=CC=C12)O | C9H7NO
reactant | triethylamine | 3.8 mmol, 524 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid isoquinolin-3-yl ester | 505 mg, 97% | C1=NC(=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C10H6F3NO3S
